* C:\Users\NIMA\Documents\LTspiceXVII\OpAmp26.asc
* Pinout: Vi+ Vi- VDD VSS Vout
*.SUBCKT OpAmp26_ForLab 5 4 1 6 3
.SUBCKT OpAmp26 Vi+ Vi- VDD VSS Vout
Mn1 Y Vi- X X nch l='Ln1' w='Wn1' m=1
Mb1 X Vb VSS VSS nch l='Lb0' w='Wb0' m=1
Mn2 Z Vi+ X X nch l='Ln1' w='Wn1' m=1
Mp1 Y Y VDD VDD pch l='Lp1' w='Wp1' m=1
Mp2 Z Y VDD VDD pch l='Lp1' w='Wp1' m=1
Rref1 VDD Vb 44k
Mb2 Vb Vb VSS VSS nch l='Lb0' w='Wb0' m=1
Mb3 Vout Vb VSS VSS nch l='Lb0' w='Wb0' m=2
Mp3 Vout Z VDD VDD pch l='Lp1' w='Wp1' m=10
Ccomp Z N001 50p
Rcomp N001 Vout 100
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\NIMA\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Ln1=1u
.param Wn1=16u
.param Lb0=1u
.param Wb0=5u
.param Wp1=4u
.param Lp1=1u
* +
* _
.MODEL nch NMOS (LEVEL=1 VTO=0.5 UO=350 LAMBDA=0.1 TOX=2.4E-9)
.MODEL pch PMOS (LEVEL=1 VTO=-0.6 UO=140 LAMBDA=0.1 TOX=2.4E-9)
.backanno
.end
